US08859777B2
Step 2: Preparation of 4-(3-benzyloxyphenyl)-4-fluoropiperidine Hydrochloride.
This material was prepared from the reaction of tert-butyl 4-(3-benzyloxyphenyl)-4-hydroxypiperidine-1-carboxylate with diethylaminosulfur trifluoride followed by direct deprotection of the crude product with methanolic hydrogen chloride as described in Step 2 of Example 1 in 75% overall yield.

reactant | tert-butyl 4-(3-benzyloxyphenyl)-4-hydroxypiperidine-1-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C23H29NO4
reactant | diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | hydrogen chloride | Cl | ClH
product | 4-(3-benzyloxyphenyl)-4-fluoropiperidine Hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCNCC1)F | InChI=1S/C18H20FNO.ClH/c19-18(9-11-20-12-10-18)16-7-4-8-17(13-16)21-14-15-5-2-1-3-6-15;/h1-8,13,20H,9-12,14H2;1H
